* 04_compliance_corner.cir -- worst-case compliance corner (TESTING_PLAN Part 1, test 4)
*
* Stack every term against the source: MAX RTD resistance + MIN supply + R_ref high by
* its deviation. PASS: voltage across the REF200 source still >= 2.5 V (target >= 3 V).
* Single operating point at the corner.

.include netlists/_generated_params.inc
.include models/ref200.lib

* min supply
Vrail rail 0 dc {v_rail_min}
Xsrc  rail topref ref200_src iset={i_exc} rout={rout_src}
* R_ref at the high end of its tol+tempco band (worst case for headroom)
Rref  topref rtd_hi '{r_ref}*(1 + {r_ref_dev})'
* RTD at top of band (max resistance, max voltage burden)
Rrtd  rtd_hi 0 {r_rtd_max}

.options reltol=1e-9 abstol=1e-15 vntol=1e-12

.control
set wr_singlescale
set wr_vecnames
op
let v_rtd  = v(rtd_hi)
let v_ref  = v(topref) - v(rtd_hi)
let v_burden = v(topref)
let headroom = v(rail) - v(topref)
let i_actual = abs(i(Vrail))
print v_rtd v_ref v_burden headroom i_actual
wrdata scratch/04_compliance_corner.data v_rtd v_ref v_burden headroom i_actual
.endc
.end