* 06_noise.cir -- passive-chain noise referred to the ADC input (TESTING_PLAN test 6)
*
* `.noise` over the V_RTD differential measurement path. ngspice natively includes the
* Johnson noise of R_ref, the RTD, the source output resistance, and the two sense-filter
* resistors, band-limited by the filter cap, output-referred to the ADC differential input
* v(adcp,adcn). The REF200 EXCITATION current noise is added afterwards by analysis.py from
* the datasheet (ideal current sources are noiseless in `.noise` -- see models/README.md).
*
* PASS (decided in analysis.py): total excitation + passive-chain RMS noise referred to the
* ADC input sits BELOW the T7 ADC noise floor -- i.e. the architecture is not the limiter.

.include netlists/_generated_params.inc
.include models/ref200.lib

Vrail rail 0 dc {v_rail} ac 0
Xsrc  rail topref ref200_src iset={i_exc} rout={rout_src}
Rref  topref rtd_hi {r_ref}
Rrtd  rtd_hi 0 {r_rtd_nom}

* differential sense filter on V_RTD (across the RTD: rtd_hi .. 0)
Rf1 rtd_hi adcp {filt_r}
Rf2 0      adcn {filt_r}
Cf  adcp adcn {filt_c}

.control
set wr_singlescale
set wr_vecnames
* output = differential ADC voltage; input ref = Vrail; 0.1 Hz .. 100 kHz
noise v(adcp,adcn) Vrail dec 50 0.1 100k 1
print onoise_total
* spectrum lives in the first noise plot (frequency, onoise_spectrum, inoise_spectrum)
setplot noise1
wrdata scratch/06_noise.data frequency onoise_spectrum inoise_spectrum
.endc
.end