* 05_transient_settling.cir -- sense RC settling vs mux dwell (TESTING_PLAN Part 1, test 5)
*
* The sense anti-alias/EMI filter (board_spec section 6) is R in each leg + C across the
* differential pair: differential time constant tau = (2*filt_r)*filt_c. When the T7's
* internal mux hops to this channel, the cap holds the PREVIOUS channel's voltage and must
* re-settle to this channel's V_RTD. Worst-case step = (max - min) sense voltage seen in a
* scan. PASS: settles to < 1/2 ADC LSB within the planned mux dwell (mux_dwell, see
* analysis.py which locates the settling time from v(adcp)).
*
* Differential equivalent: a Thevenin sense source (this channel's V_RTD, = low end of the
* band) through the differential series resistance into the cap, with the cap pre-charged
* (.ic) to the worst-case previous channel voltage (high end of the band).

.include netlists/_generated_params.inc

* this channel's true differential sense voltage (settling TARGET = low end of band)
Vsense vp 0 dc {v_sense_lo}
* differential series resistance = both 1k sense legs in series
Rser   vp adcp '2*{filt_r}'
* filter cap across the pair
Cf     adcp 0 {filt_c}

* cap pre-charged to the worst-case previous-channel voltage (high end of band)
.ic v(adcp)={v_sense_hi}

.control
set wr_singlescale
set wr_vecnames
* ~5 mux-dwell windows (mux_dwell = 1 ms); tmax 2 us for fine early resolution
tran 2u 5m 0 2u uic
let v_adc = v(adcp)
let err_v = v(adcp) - v_sense_lo
wrdata scratch/05_transient_settling.data v_adc err_v
.endc
.end