* Test 6 - Noise of the ratio (Johnson part via ngspice; full budget in python)
* ----------------------------------------------------------------------------
* Proves TESTING_PLAN Part 1 #6. ngspice .noise gives the rigorous Johnson-noise
* spectral density that R_ref and the RTD push into each measurement (V_ref on
* the ADS path, V_RTD on the T7 path). python then RSS-combines these with the
* T7 and ADS1115 datasheet input noise and the CRD current-noise BOUND, band-
* limits, forms the ratio noise, and converts to degC. (Custom current-noise
* PSDs are not natural in ngspice .noise, hence the analytic combine; the part
* it does best - source-impedance-correct Johnson noise - is taken from here.)
*
* Plain (noisy) resistors are used so thermal noise is modeled. RTD at RTD_0.
* Output: two files, each (freq, V/sqrtHz) for the V_ref and V_RTD measurements.
* ----------------------------------------------------------------------------
.include sim/models/params.inc
.include sim/models/crd.inc
.include sim/models/meas.inc

Vrail rail 0 DC {VRAIL_NOM} AC 1   $ AC value required as the .noise input ref
Vdt   dt   0 DC 0
Vtcgr tcgr 0 DC 0
Voff  off  0 DC 0
Vkc   kc   0 DC 1

Xcrd rail top kc crd
Rref top mid {R_REF0}      $ plain noisy resistor (Johnson source)
Rrtd mid 0   {RTD_0}       $ plain noisy resistor (Johnson source)
Xref top mid nref               adc_vref
Xrtd mid 0   nrtd dt tcgr off   adc_vrtd

.control
* noise creates two plots (spectral density, then integrated=current); the
* names auto-increment, so step back one plot to reach the spectral density.
* V_ref measurement noise (ADS1115 path)
noise v(nref) Vrail dec 50 0.1 1k
setplot previous
wrdata reports/sim/data/test6_nref_noise.dat onoise_spectrum
* V_RTD measurement noise (T7 path)
noise v(nrtd) Vrail dec 50 0.1 1k
setplot previous
wrdata reports/sim/data/test6_nrtd_noise.dat onoise_spectrum
.endc
.end