* Test 5 - Transient: sense-line RC settling vs mux dwell
* ----------------------------------------------------------------------------
* Proves TESTING_PLAN Part 1 #5: the ~1 kOhm / 0.1 uF anti-alias filter at the
* T7 sense input settles to < 1/2 T7 LSB within the per-channel mux dwell. We
* model a mux "connect" by switching the CRD current on at t = 100 us (kc steps
* 0 -> 1) and watch the filtered sense node v(t7p) settle to its final value.
* Self-contained (custom transient sources), reuses crd/meas models.
* Output: time  V_RTD_raw(mid)  V_filtered(t7p)
* ----------------------------------------------------------------------------
.include sim/models/params.inc
.include sim/models/crd.inc
.include sim/models/meas.inc

.param RF = 1k          $ sense series filter resistor
.param CF = 0.1u        $ sense filter capacitor  (tau ~ RF*CF = 100 us)
.param RTD_T5 = 100     $ RTD under test [Ohm]

Vrail rail 0 DC {VRAIL_NOM}
* knob nodes required by the models
Vdt   dt   0 DC 0
Vtcgr tcgr 0 DC 0
Voff  off  0 DC 0
Vkref kref 0 DC 1
* mux connect: current source turns on at t=100us
Vkc   kc   0 PULSE(0 1 100u 10n 10n 1 2)

Xcrd rail top kc crd
Rref top mid R = 'R_REF0'
Rrtd mid 0   R = '{RTD_T5}'

* sense-line RC low-pass into the T7 (sense- tied to ground in this model)
RF mid t7p {RF}
CF t7p 0   {CF}
Xrtd t7p 0 nrtd dt tcgr off adc_vrtd

.control
set wr_singlescale
set wr_vecnames
tran 1u 1.2m 0 1u uic
wrdata reports/sim/data/test5_settle.dat v(mid) v(t7p)
.endc
.end